US04334066
To 100 ml of methanol are added 19.8 g of 6-isopropyl-2-ethoxy-5-oxo-5,6-dihydro-2H-pyran, 7 g of 37% formalin and 9 g of morpholine. Then the mixture is stirred at room temperature for 4 hours. The reaction mixture is concentrated at reduced pressure and the residue is isolated and purified by silica gel column chromatography giving 23.6 g of light yellow oily 6-isopropyl-2-ethoxy-4-morpholinomethyl-5-oxo-5,6-dihydro-2H-pyran (compound No. 2 in Table 1). IR (neat)

reactant | 6-isopropyl-2-ethoxy-5-oxo-5,6-dihydro-2H-pyran | 19.8 g | C(C)(C)C1C(C=CC(O1)OCC)=O | C10H16O3
reactant | formalin | 7 g | C=O | CH2O
reactant | morpholine | 9 g | N1CCOCC1 | C4H9NO
solvent | methanol | 100 ml | CO | CH4O
product | 6-isopropyl-2-ethoxy-4-morpholinomethyl-5-oxo-5,6-dihydro-2H-pyran | 23.6 g | C(C)(C)C1C(C(=CC(O1)OCC)CN1CCOCC1)=O | C15H25NO4
